US07741341B2
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(morpholine-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(morpholine-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 450 mg (0.90 mmol) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 87 μl (2.70 mmol) morpholine. The title compound was obtained as its formiate. Subsequent transformation to the corresponding acetate gave a white amorphous solid.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.90 mmol, 450 mg | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C24H27ClN6O4
reactant | morpholine | 2.70 mmol, 87 μl | N1CCOCC1 | C4H9NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(morpholine-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC(NC1=NC=C(C=C1)Cl)=O)C=CC=C2C(=O)N2CCOCC2 | C28H34ClN7O4
